US06310056B1
To a suspension of 249 mg of 7-formylimidazo[5,1-b]thiazole in 10 ml of ethanol were added 219 mg of o-methylhydroxylamine hydrochloride and 2.67 ml of a 1N sodium hydroxide solution. The reaction mixture was stirred at room temperature for 20 hours, concentrated, then diluted with 50 ml of water, and extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:ethyl acetate=1:1) to give 7-methoxyiminomethylimidazo[5,1-b]thiazole (low polar geometrical isomer) in a yield of 164 mg from the low polarity fraction.

reactant | 7-formylimidazo[5,1-b]thiazole | 249 mg | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
reactant | o-methylhydroxylamine hydrochloride | 219 mg | CO[NH3+].[Cl-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-methoxyiminomethylimidazo[5,1-b]thiazole | CON=CC=1N=CN2C1SC=C2 | C7H7N3OS
